US04358440
Production of Z-Ile-Thr-OH
In 500 ml of a mixed solvent of dioxane and ethyl acetate (1:1) were dissolved 24.3 g of Z-Ile-OH and 19.8 g of HONB. The solution was cooled with ice, followed by adding 20.8 g of DCC. The mixture was stirred for two hours. The precipitating DCU was removed by filtration, then the solvent was removed by distillation. The residue was crystallized from petroleum benzine. The crystals were recovered by filtration and dissolved in 200 ml of DMF. Separately 18 g of Thr and 12.8 ml of TEA were dissolved in a mixed solvent consisting of 200 ml of water and 50 ml of DMF. The solution was cooled with ice, and then the previously prepared DMF solution of activated ester was added. The mixture was stirred for one hour, and further stirred for 14 hours at a room temperature. Insolubles were removed by filtration, then the solvent was evaporated off. The residue was dissolved in 300 ml of 5% aqueous solution of sodium hydrogen-carbonate, and the solution was washed with diethyl ether. The aqueous layer was separated and acidified with 1N-hydrochloric acid, followed by two extractions, each with a 200 ml portion of AcOEt. The extracts were combined and washed with water, followed by drying over anhydrous sodium sulfate. The solvent was then evaporated off. To the residue was then added AcOEt-diethyl ether, and the resulting crystals were recovered by filtration. Yield 24.4 g (72.8%); m.p. 160°-162° C.; [α]D24 -10.3° (c=0.57, MeOH); Rf1 =0.36

reactant | Z-Ile-OH | 24.3 g | N([C@@H]([C@@H](C)CC)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | HONB | 19.8 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 20.8 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Z-Ile-Thr-OH | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H]([C@H](O)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C18H26N2O6
